US08754103B2
To a round bottom flask was added 3,6-dichloropyridazine (20.1 mmole), 4-(methylsulfonylamino)phenylboronic acid (20.1 mmole), tetrakis(triphenylphosphine)palladium (1.00 mmole), 2M Na2CO3 (30 mL), and 1,2-dimethoxyethane (120 mL). The resulting reaction mixture was heated at 85 C for 22 hours. The reaction mixture was diluted with ethyl acetate and filtered through celite. The filtrate was washed with water. The organic extract was dried over Na2SO4 and evaporated in vacuo. The crude residue was purified by biotage column chromatography eluting with 4:1 ethyl acetate to hexane mixture to afford N-(4-(6-chloropyridazin-3-yl)phenyl)methanesulfonamide.

reactant | 3,6-dichloropyridazine | 20.1 mmole | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 4-(methylsulfonylamino)phenylboronic acid | 20.1 mmole | CS(=O)(=O)NC1=CC=C(C=C1)B(O)O | C7H10BNO4S
reactant | Na2CO3 | 2M, 30 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 120 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 1.00 mmole | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(4-(6-chloropyridazin-3-yl)phenyl)methanesulfonamide | ClC1=CC=C(N=N1)C1=CC=C(C=C1)NS(=O)(=O)C | C11H10ClN3O2S
